US06734200B1
3-(4-(3(S)-Acetamidopyrrolidin-1-yl)-3-fluorophenyl)-5(R)-(N-(2,2,2-trichloroethyloxycarbonyl)isoxazol-3-ylaminomethyl)oxazolidin-2-one
3-(4-(3(S)-Aminopyrrolidin-1-yl)-3-fluorophenyl)-5(R)-(N-(2,2,2-trichloroethyloxycarbonyl)isoxazol-3-ylaminomethyl)oxazolidin-2-one hydrochloride salt (400 mg, 0.74 mM) was dissolved in water (5 ml) and treated with aqueous sodium bicarbonate solution (5 ml) and dichloromethane (10 ml) in an ice-bath. Acetic anhydride (216 mg, 2 mM) was added, the mixture stirred 18 hours, allowing the temperature to rise to ambient, followed by addition of a further portion of acetic anhydride (216 mg ), and a further period of 10 hours stirring. The organic phase was separated, washed with aqueous sodium dihydrogen phosphate (2%, 2×15 ml), brine (10 ml), and dried (magnesium sulfate). Evaporation gave the desired product (338 mg ). NMR (DMSO-d6) δ: 1.79 (s overlapping m, 4H); 2.11 (hextet, 1H); 3.11 (m, 1H); 3.26 (m overlapped by H2O, ˜1H); 3.40 (dd, 1H); 3.49 (m, 1H); 3.8.2 (dd, 1H); 4.13 (t overlapping dd, 2H); 4.27 (dd, 1H); 4.35 (dd, 1H); 4.97 (d, 1H); 5.01 (m, 1H); 5.07 (d, 1H); 6.73 (t, 1H); 6.88 (d, 1H); 7.08 (dd, 1H); 7.35 (dd, 1H); 8.08 (d, 1H); 8.89 (d, 1H). MS (ESP): 578 (MH+) for C22H23Cl3FN5O6

reactant | 3-(4-(3(S)-Aminopyrrolidin-1-yl)-3-fluorophenyl)-5(R)-(N-(2,2,2-trichloroethyloxycarbonyl)isoxazol-3-ylaminomethyl)oxazolidin-2-one hydrochloride salt | 0.74 mM, 400 mg | Cl.N[C@@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN(C(=O)OCC(Cl)(Cl)Cl)C1=NOC=C1)=O)F
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | Acetic anhydride | 2 mM, 216 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 216 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 5 ml | O | H2O
product | 3-(4-(3(S)-Acetamidopyrrolidin-1-yl)-3-fluorophenyl)-5(R)-(N-(2,2,2-trichloroethyloxycarbonyl)isoxazol-3-ylaminomethyl)oxazolidin-2-one | 338 mg | C(C)(=O)N[C@@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN(C(=O)OCC(Cl)(Cl)Cl)C1=NOC=C1)=O)F | C22H23Cl3FN5O6
